US08242104B2
To a solution of 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (0.280 g, 0.000909 mol) in toluene (5 mL) was added dimethylacetamide-dimethylacetal (0.405 mL, 0.00273 mol). The solution was stirred at 95° C. for 4 h. The toluene was removed in vacuo to give 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid [1-dimethylamino-eth-(E)-ylidene]-amide. MS (ESI+) 377.1/379.1.

reactant | 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 0.000909 mol, 0.280 g | BrC1=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C=C1 | C12H10BrN3O2
reactant | dimethylacetamide-dimethylacetal | 0.00273 mol, 0.405 mL | COC(C)(N(C)C)OC | C6H15NO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid [1-dimethylamino-eth-(E)-ylidene]-amide | CN(\C(\C)=N\C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br)C | C16H17BrN4O2
